US09388189B2
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-(difluoromethyl)phenyl)methanesulfonamide
To a solution of (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.23 mmol) were added (3-(methylsulfonamido)-5-(difluoromethyl)phenyl)boronic acid (598 mg, 20% purity, 0.34 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (19 mg, 0.02 mmol) and 284 μl of a 2M aqueous solution of cesium carbonate in dioxane (3 ml). The mixture was stirred under argon atmosphere at 100° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The crude was purified by flash chromatography (0 to 85%, hexane-ethyl acetate) using SP1® Purification System to give 22 mg (17% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.23 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | (3-(methylsulfonamido)-5-(difluoromethyl)phenyl)boronic acid | 0.34 mmol, 598 mg | CS(=O)(=O)NC=1C=C(C=C(C1)C(F)F)B(O)O | C8H10BF2NO4S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-(difluoromethyl)phenyl)methanesulfonamide | 22 mg, 17% yield | NC1=NC=NC(=C1C=1C=C(C=C(C1)C(F)F)NS(=O)(=O)C)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H26F2N8O3S
